US04250174
A suspension of 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine (500 mg.) in 10 ml. of acetic anhydride is treated as in Example 7 to yield 3-acetyl-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine.

reactant | 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 500 mg | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | C(C)(=O)C1=C(N=C2N1C=C(C=C2)SC2=CC=CC=C2)NC(=O)OC | C17H15N3O3S
